US08865699B2
1.2 N-(5-bromopyridin-3-yl)benzenesulfonamide
To a solution of 3-amino-5-bromopyridine (0.500 g, 2.89 mmol) in pyridine (2 mL) was added benzenesulfonyl chloride (0.404 mL, 3.18 mmol) dropwise. The reaction mixture was stirred at room temperature (20° C.) for 16 h. After this time, water (5 mL) was added to the reaction mixture. The resulting crystalline solid was collected by filtration, washed with water and dried in the vacuum oven to afford the title compound (0.898 g, 2.89 mmol, quantitative). No further purification was required.

reactant | 3-amino-5-bromopyridine | 2.89 mmol, 0.500 g | NC=1C=NC=C(C1)Br | C5H5BrN2
reactant | benzenesulfonyl chloride | 3.18 mmol, 0.404 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | 5 mL | O | H2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-bromopyridin-3-yl)benzenesulfonamide | 2.89 mmol, 0.898 g | BrC=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1 | C11H9BrN2O2S
